US06800651B2
N-(3-Trifluoromethoxyphenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
N-(3-trifluoromethoxyphenyl)pyrid-3-ylmethylamine(0.270 g, 1 mmol) and pyridine were dissolved in dichloroethane (2 ml). The solution was cooled in an ice-bath. To the solution was added 2,2,2-trifluoroethylsulfonyl chloride (0.274 g, 1.5 mmol). The mixture was stirred at room temperature overnight. Upon removing solvent, the residue was dissolved in water and extracted with EtOAc. The organic phase was washed with brine concentrated. The residue was chromatographed to afford the title compound. 1H NMR: 8.42 (d,1H,J=6.4 Hz), 8.20 (d,1H,J=2.0 Hz), 7.57 (d,1H,J=9.8 Hz), 7.40-6.85 (m,5H), 4.81 (s,2H), 3.72 (q,2H, J=7.8 Hz). MS calcd 414.1; MS (M+1) 415.1.

reactant | N-(3-trifluoromethoxyphenyl)pyrid-3-ylmethylamine | 1 mmol, 0.270 g | FC(OC=1C=C(C=CC1)NCC=1C=NC=CC1)(F)F | C13H11F3N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 1.5 mmol, 0.274 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
product | N-(3-Trifluoromethoxyphenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | FC(OC=1C=C(C=CC1)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1)(F)F | C15H12F6N2O3S
